US05502126
In this experiment, an isoprene-butadiene copolymer rubber was prepared using another rare earth metal, praseodymium. In the procedure employed, a one gallon (3.78 liter) reactor was charged with 1,000 grams of a dry hexane solution containing 82 grams of 1,3-butadiene, followed by 663 grams of a 1.2 molar diisobutylaluminum hydride (DIBAH) in hexane. A solution of 21.5 grams triphenylsilanol dissolved in 250 grams of toluene was then charged into the reactor at a temperature of 20° C. After stirring for about forty minutes, 85.9 grams of a 0.826 molar solution of praseodymium octoate, diluted with 195 grams of hexane, was charged to the reactor. The solution was allowed to stir for forty-five minutes after which 19.1 grams of allyl bromide was added. The cooling was stopped and the mixture was allowed to warmup to ambient temperature (and above). After stirring for about one hour, the catalyst system was aged by heating at 65° C. for ninety minutes. The catalyst prepared had a silanol-DIBAH!-Pr-allyl bromide-butadiene component molar ratio of 1-15!-1-2-20, respectively, and a concentration of 0.025 molarity with respect to the neodymium. The aged catalyst was then cooled and stored in a dry container under nitrogen.

reactant | praseodymium | [Pr] | Pr
reactant | 1,3-butadiene | 82 grams | C=CC=C | C4H6
reactant | diisobutylaluminum hydride | 1.2 molar | [H-].C(C(C)C)[Al+]CC(C)C
reactant | triphenylsilanol | 21.5 grams | C1(=CC=CC=C1)[Si](O)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H16OSi
reactant | allyl bromide | 19.1 grams | C(C=C)Br | C3H5Br
reactant | silanol DIBAH | [SiH3]O.[H-].C(C(C)C)[Al+]CC(C)C
reactant | neodymium | [Nd] | Nd
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 250 grams | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 195 grams | CCCCCC | C6H14
solvent | hexane | 1,000 grams | CCCCCC | C6H14
product | isoprene butadiene | yield of 37% | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
